US07700625B2
A solution of (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-(5-bromo-1,3-dihydro-isoindol-2-yl)-methanone (200 mg; 0.36 mmol) and 1-methyl-4-(piperidin-4-yl)piperazine (80 mg; 1.2 equiv.) in toluene (5 ml) was treated with (2-biphenyl)-di-tert-butylphosphine (6 mg; 5 mol %), tris(dibenzylidene)palladium(0) (10 mg; 2.5 mol %) and sodium tert-butoxide (50 mg; 1.4 equiv.) then heated at 120° C. for 30 minutes in a CEM explorer microwave synthesiser. The reaction mixture was diluted with DCM, washed with brine, dried (MgSO4) and evaporated. Purification by flash column chromatography (Biotage SP4-25S, 25 ml/min) eluting with DMAW 240-120-90 followed by evaporation of product containing fractions gave 105 mg of (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-{5-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-1,3-dihydro-isoindol-2-yl}methanone as the acetic acid salt.

reactant | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-(5-bromo-1,3-dihydro-isoindol-2-yl)-methanone | 0.36 mmol, 200 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=C(C=C2C1)Br | C32H28BrNO3
reactant | 1-methyl-4-(piperidin-4-yl)piperazine | 80 mg, 1.2 equiv. | CN1CCN(CC1)C1CCNCC1 | C10H21N3
reactant | sodium tert-butoxide | 50 mg, 1.4 equiv. | CC(C)([O-])C.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-{5-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-1,3-dihydro-isoindol-2-yl}methanone | 105 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=C(C=C2C1)N1CCC(CC1)N1CCN(CC1)C | C42H48N4O3
